US04410519
(b) 2-[N-(3-chloropropyl)-N-propylamino]-1,2,3,4-tetrahydro-5-methoxy-naphthalene
185.8 g thionylchloride are added to 190 g 1,2,3,4-tetrahydro-2-[N-(3-hydroxypropyl)-N-propylamino]-5-methoxy-naphthalene (free base) in 1.5 liters chloroform. The resultant warm reaction mixture is refluxed for 1 hour, and after concentration partitioned between methylene chloride and 2 N sodium hydroxide. The organic phase is washed with water, dried over sodium sulphate, filtered and concentrated. The crude heading compound so obtained is converted into the bis[base]naphthalene-1,5-disulphonate. M.pt. 239°-242° (decomp).

reactant | thionylchloride | 185.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2,3,4-tetrahydro-2-[N-(3-hydroxypropyl)-N-propylamino]-5-methoxy-naphthalene | 190 g | OCCCN(CCC)C1CC2=CC=CC(=C2CC1)OC | C17H27NO2
solvent | chloroform | 1.5 liters | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-(3-chloropropyl)-N-propylamino]-1,2,3,4-tetrahydro-5-methoxy-naphthalene | ClCCCN(CCC)C1CC2=CC=CC(=C2CC1)OC | C17H26ClNO
